US07488739B2
Under ice cooling, triethylamine and 2,4,5-trifluorobenzoyl chloride were added to a solution of ethyl 3-(cyclopentylamino)buta-2-enoate in dioxane, for stirring at ambient temperature for 30 minutes and at 65° C. for one hour, to obtain ethyl 3-(cyclopentylamino)-2-(2,4,5-trifluorobenzoyl)buta-2-enoate.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,4,5-trifluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | ethyl 3-(cyclopentylamino)buta-2-enoate | C1(CCCC1)NC(=CC(=O)OCC)C | C11H19NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 3-(cyclopentylamino)-2-(2,4,5-trifluorobenzoyl)buta-2-enoate | C1(CCCC1)NC(=C(C(=O)OCC)C(C1=C(C=C(C(=C1)F)F)F)=O)C | C18H20F3NO3
